US07223788B2
(R)-4-(4-Fluorophenyl)piperidine-1-carboxylic acid {4-[3-(acetylmethylamino)pyrrolidin-1-yl]phenyl}-N-methylamide
(R)-4-(4-Fluorophenyl)piperidine-1-carboxylic acid {4-[3-(acetylmethylamino)pyrrolidin-1-yl]phenyl}amide (22 mg) was added to a suspension of sodium hydride (95% in oil; 0.005 g) in DMF (1 ml). After evolution of gas ceased, iodomethane (0.02 ml) was added. After two hours, the reaction mixture was cautiously hydrolyzed with water and extracted with dichloromethane. The organic phase was dried over magnesium sulfate and concentrated, and the residue was crystallized from pentane. This resulted in the product with the molecular weight of 452.58 (C26H33FN4O2); MS (ESI): 453 (M+H+).

reactant | (R)-4-(4-Fluorophenyl)piperidine-1-carboxylic acid {4-[3-(acetylmethylamino)pyrrolidin-1-yl]phenyl}amide | 22 mg | C(C)(=O)CN[C@H]1CN(CC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=CC=C(C=C1)F | C25H31FN4O2
reactant | sodium hydride | 0.005 g | [H-].[Na+]
reactant | iodomethane | 0.02 ml | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (R)-4-(4-Fluorophenyl)piperidine-1-carboxylic acid {4-[3-(acetylmethylamino)pyrrolidin-1-yl]phenyl}-N-methylamide | C(C)(=O)CN[C@H]1CN(CC1)C1=CC=C(C=C1)N(C(=O)N1CCC(CC1)C1=CC=C(C=C1)F)C | C26H33FN4O2
